US06734301B2
(Chart B, Step 1): A solution 3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole in dichloromethane (20 mL) is cooled to 0° C. and treated with oxalylchloride (0.17 mL, 2.0 mmol) instantly becoming a yellow color. After 40 min, the reaction mixture is warmed to rt and volatiles are removed under reduced pressure. The resulting solid is diluted with toluene (20 mL) and dichloromethane (5 mL) and treated with the 4-methoxy aniline (160 mg, 1.3 mmol) and triethylamine (0.42 mL, 3.0 mmol) with immediate smoke/haze forming. After 18 hrs, the reaction mixture is concentrated, diluted with methanol (10 mL) and THF (10 mL) and treated with 1N sodium hydroxide (10 mL). After 15 min, reaction mixture is concentrated, diluted with 1N sodium hydroxide (20 mL), and extracted twice with dichloromethane (25 mL). The combined organics are washed with brine (25 mL), dried over MgSO4, filtered, and concentrated to give a crude solid. This material is purified by LC (230-400 silica gel) eluting with 10% methanol/dichloromethane to afford 359 mg of N-(4-methoxyphenyl)-2-oxo-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide as a light yellow solid, mp 177-180° C. IR (drift) 1670, 1621, 1559, 1507, 1465, 1416, 1333, 1264, 1242, 1221, 1211, 1073, 838, 789, 762 cm−1; OAMS supporting ions at: ESI+364.1.

reactant | 3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indole | FC(C(=O)N1CCN2C(=CC=3C=CC=CC23)CC1)(F)F | C14H13F3N2O
reactant | oxalylchloride | 2.0 mmol, 0.17 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methoxy aniline | 1.3 mmol, 160 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(4-methoxyphenyl)-2-oxo-2-(2,3,4,5-tetrahydro-1H-[1,4]diazepino[1,7-a]indol-11-yl)acetamide | 359 mg | COC1=CC=C(C=C1)NC(C(C1=C2N(C=3C=CC=CC13)CCNCC2)=O)=O | C21H21N3O3
